US05665718
3.56 g (10 mmol) of (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, 15 ml of methylene chloride, 8.6 ml (50 mmol) of N-ethyldiisopropylamine and 2.64 g (10 mmol) of α,α'-dibromo-o-xylene were stirred at room temperature for 20 hours. The reaction solution was washed three times with water, dried over magnesium sulfate and evaporated. The residue was chromatographed on 500 g of silica gel while eluting with methylene chloride/methanol 19/1. There were obtained 1.55 g (33%) of (S)-8-chloro-12,12a-dihydro-1-(5-isoindolin-2-ylmethyl-1,2,4-oxadiazol-3-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride of m.p. 218°-222°.

reactant | (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 10 mmol, 3.56 g | NCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3Cl)=O)CC1 | C16H13ClN6O2
reactant | N-ethyldiisopropylamine | 50 mmol, 8.6 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | α,α'-dibromo-o-xylene | 10 mmol, 2.64 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | (S)-8-chloro-12,12a-dihydro-1-(5-isoindolin-2-ylmethyl-1,2,4-oxadiazol-3-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 1.55 g, 33% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CN3CC2=CC=CC=C2C3)CC1)=O | C24H19ClN6O2
